US07816522B2
(17e) {2-(3-ethoxy-4-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester
After dissolving 1.0 g of {2-(3-hydroxy-4-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 10 ml of DMF, 473 mg of potassium carbonate and 219 μl of iodoethane were added and the mixture was stirred at room temperature for 21 hours. Water was added to the reaction mixture and extraction was performed with ethyl acetate. After washing the organic layer with water and saturated brine, it was dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (983 mg, isomeric mixture) as a light yellow solid.

reactant | {2-(3-hydroxy-4-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 1.0 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)O)SC)=O | C21H20N4O5S
reactant | potassium carbonate | 473 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 219 μl | ICC | C2H5I
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-(3-ethoxy-4-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 983 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)OCC)SC)=O | C23H24N4O5S
